US07919628B2
0.966 g of 2-amino-4-chloro-benzenethiol was dissolved in 10 ml of abs. ethanol. 1.44 g of 2-chloro-1,1,1-triethoxy-ethane were added and the reaction was heated at 60° C. overnight. The reaction mixture was then concentrated in vacuo, dissolved in diethyl ether and the organic phase was washed once each with 5% aqueous hydrochloric acid, followed by water and 10% aqueous sodium bicarbonate. The organic layer was dried with magnesium sulfate and concentrated in vacuo. Purification by flash chromatography on silica with heptanes/dichloromethane afforded 1.071 g of 5-chloro-2-chloromethyl benzothiazole as a yellow solid.

reactant | 2-amino-4-chloro-benzenethiol | 0.966 g | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 2-chloro-1,1,1-triethoxy-ethane | 1.44 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-2-chloromethyl benzothiazole | 1.071 g | ClC=1C=CC2=C(N=C(S2)CCl)C1 | C8H5Cl2NS
